US05840732
i) Synthesis of 3-butylidenesuccinimide
A solution of 1.00 g (10.0 mmol) of maleimide and 2.00 g (10.0 mmol) of tri-n-butylphosphine in 15 ml of acetic acid was stirred at 100° C. for 40 minutes. After the reaction mixture was cooled, the solvent was distilled off at 50° C. (1 mmHg). To the residue (red oily substance), 40.6 ml (450 mmol) of n-butyraldehyde was added, followed by stirring at 100° C. for 3 hours. After the reaction mixture was cooled, the excess aldehyde was distilled off. The resulting oily substance was subjected to column chromatography (eluent, diethyl ether). The obtained residue was purified by flush chromatography (eluent, hexane/ethyl acetate=4/1→2/1) to yield 0.89 g (58.1%, light yellow solid) of the desired product.

reactant | maleimide | 10.0 mmol, 1.00 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | tri-n-butylphosphine | 10.0 mmol, 2.00 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | n-butyraldehyde | 450 mmol, 40.6 ml | C(CCC)=O | C4H8O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-butylidenesuccinimide | C(CCC)=C1CC(=O)NC1=O | C8H11NO2
